US08026370B2
2-mercapto-4-(3-phthalimidopropyl)-1,3-thiazole
2-(5-Bromo-4-oxopentyl)-isoindoline-1,3-dione (17.8 g) synthesized using 1-chloro-4-oxopentane and potassium phthalimide as starting materials and in reference to non-patent reference [Pharmazie, 47, 86 (1992)] and the like and ammonium dithiocarbamate (6.96 g) were suspended in ethanol (250 mL), and the suspension was refluxed for 6 hr. The precipitated crystals were collected by filtration and washed with ethanol to give the title compound (10.1 g) as white crystals.

reactant | 2-(5-Bromo-4-oxopentyl)-isoindoline-1,3-dione | 17.8 g | BrCC(CCCN1C(C2=CC=CC=C2C1=O)=O)=O | C13H12BrNO3
reactant | 1-chloro-4-oxopentane | ClCCCC(C)=O | C5H9ClO
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ammonium dithiocarbamate | 6.96 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-mercapto-4-(3-phthalimidopropyl)-1,3-thiazole | 10.1 g | SC=1SC=C(N1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H12N2O2S2
